US04014677
12.9 g of 2-methyl-4-chloro-5-nitro-6-(3-pentylamino)-pyrimidine (0.05 mole) are reacted in dimethyl sulphoxide (c. 100 ml) with 4.0 g of sodium cyclopropanolate (0.05 mole) to yield 2-methyl-4-cyclopropoxy-5-nitro-6-(3-pentylamino)-pyrimidine.

reactant | 2-methyl-4-chloro-5-nitro-6-(3-pentylamino)-pyrimidine | 0.05 mole, 12.9 g | CC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])NC(CC)CC | C10H15ClN4O2
reactant | sodium cyclopropanolate | 0.05 mole, 4.0 g | C1(CC1)[O-].[Na+]
solvent | dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
product | 2-methyl-4-cyclopropoxy-5-nitro-6-(3-pentylamino)-pyrimidine | CC1=NC(=C(C(=N1)OC1CC1)[N+](=O)[O-])NC(CC)CC | C13H20N4O3
